US07935707B2
A) 3-Hex-1-ynyl-benzaldehyde
A solution of 10.0 g (54.05 mmol) of 3-bromo-benzaldehyde in 150 ml of piperidine was treated at RT with 1.029 g (5.40 mmol) of copper(I)iodide and 6.246 g (5.40 mmol) of tetrakis-(triphenylphosphine)-palladium and the mixture was then warmed up to 60° C. After 10 min, a solution of 9.30 ml=6.66 g (81.07 mmol) of hex-1-yne in 150 ml of piperidine was added drop by drop during 1 hour. After 30 min, the oil bath temperature was steadily increased to 80° C. The reaction mixture was then stirred at 80° C. for 15 hours and subsequently cooled down to RT. The solvent was evaporated and the residue poured into crashed ice, acidified with HCl (37%) to pH 2-3 and extracted twice with EtOAc; the organic phases were washed with water, dried over magnesium sulfate, filtered and evaporated. The residue was purified by flash column chromatography (n-heptane/EtOAc 1:0 to 97:3) to give 8.78 g (87%) of the title compound as yellow oil. MS: 186.2 (M+).

reactant | 3-bromo-benzaldehyde | 54.05 mmol, 10.0 g | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | hex-1-yne | 81.07 mmol, 6.66 g | C#CCCCC | C6H10
solvent | piperidine | 150 ml | N1CCCCC1 | C5H11N
solvent | piperidine | 150 ml | N1CCCCC1 | C5H11N
catalyst | copper(I)iodide | 5.40 mmol, 1.029 g | [Cu]I
catalyst | tetrakis-(triphenylphosphine)-palladium | 5.40 mmol, 6.246 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-Hex-1-ynyl-benzaldehyde | 8.78 g, 87% | C(#CCCCC)C=1C=C(C=O)C=CC1 | C13H14O
